US08389523B2
9.9 g (31 mmol) of 1-(2,3-dihydrobenzo[b]1,4-dioxin-6-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid was dissolved in dichloromethane (100 mL), and to this solution, N,N-dimethylformamide (0.5 mL) and 4.7 g (37 mmol) of oxalyl chloride were added sequentially. The mixture was stirred for one hour at room temperature. After confirming the completion of the reaction, the solvent was distilled off under reduced pressure to obtain 1-(2,3-dihydrobenzo[b]1,4-dioxin-6-yl)-2-oxo-1,2-dihydroquinoxaline-3-carbonyl chloride as yellow crystals (Compound No. of Production Intermediate: IX-75).

reactant | 1-(2,3-dihydrobenzo[b]1,4-dioxin-6-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid | 31 mmol, 9.9 g | O1C2=C(OCC1)C=C(C=C2)N2C(C(=NC1=CC=CC=C21)C(=O)O)=O | C17H12N2O5
reactant | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 37 mmol, 4.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(2,3-dihydrobenzo[b]1,4-dioxin-6-yl)-2-oxo-1,2-dihydroquinoxaline-3-carbonyl chloride | O1C2=C(OCC1)C=C(C=C2)N2C(C(=NC1=CC=CC=C21)C(=O)Cl)=O | C17H11ClN2O4
